US07074800B1
A solution of 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (200 mg, 0.59 mmol), (prepared as described for the starting material in Example 67), 6-hydroxyindole (96 mg, 0.715 mmol) in DMF (3 ml) containing cesium carbonate (291 mg, 0.894 mmol) was heated at 90° C. for 4 hours. After cooling, the mixture was diluted with water, the precipitate was filtered, washed with water and dried under vacuum. The solid was purified by column chromatography eluting with methylene chloride/methanol (90/10 increasing to 50/50) to give 4-(indol-6-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline (240 mg, 93%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 0.59 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | 6-hydroxyindole | 0.715 mmol, 96 mg | OC1=CC=C2C=CNC2=C1 | C8H7NO
reactant | cesium carbonate | 0.894 mmol, 291 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(indol-6-yloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 240 mg, 93% | N1C=CC2=CC=C(C=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C25H28N4O3
